US06872718B1
2,3-Dihydro-5-hydroxy-4,7-dimethyl-6-(2-methyl-2-propenyl)-1H-indole-1-carbaldehyde
2,3-Dihydro-5-hydroxy group-4,7-dimethyl-6-(2-methyl-2-propenyl)-1H-indole-1-carbaldehyde 2,3-Dihydro-4,7-dimethyl-5-[(2-methyl-2-propenyl)oxy]-1H-indole-1-carbaldehyde (6.00 g, 24.4 mmol) was suspended in N,N-dimethylaniline (25 ml) and stirred under argon atmosphere at 220° C. for 7 hours. The reaction mixture was cooled and diluted with hexane (50 ml) and stirred for 30 minutes. The precipitated crystals were filtered and washed with hexane to obtain 5.45 g of the title compound.

reactant | 4,7-dimethyl-6-(2-methyl-2-propenyl)-1H-indole-1-carbaldehyde 2,3-Dihydro-4,7-dimethyl-5-[(2-methyl-2-propenyl)oxy]-1H-indole-1-carbaldehyde | 24.4 mmol, 6.00 g | CC1=C2CCN(C2=C(C=C1OCC(=C)C)C)C=O.CC1=C2C=CN(C2=C(C(=C1)CC(=C)C)C)C=O
solvent | N,N-dimethylaniline | 25 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | hexane | 50 ml | CCCCCC | C6H14
product | 2,3-Dihydro-5-hydroxy-4,7-dimethyl-6-(2-methyl-2-propenyl)-1H-indole-1-carbaldehyde | 5.45 g, Yield: 91% | OC=1C(=C2CCN(C2=C(C1CC(=C)C)C)C=O)C | C15H19NO2
